Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Ampicillin / Sulfa (Sulfonamide Antibiotics) / 
cefuroxime / Gadolinium-Containing Contrast Media / gluten / 
nadolol / Pneumovax 23
 
Attending: ___
 
Chief Complaint:
low grade fevers, abdominal pain  
 
Major Surgical or Invasive Procedure:
___ line placement

 
History of Present Illness:
Mrs. ___ is a ___ year-old lady with a history of cirrhosis 
due to PSC complicated by ascites, encephalopathy and varices 
being admitted directly from clinic due to low grade fevers and 
abdominal pain in the setting of recurrent ascending 
cholangitis.  
Mrs. ___ has been having chill and low grade fevers 
(100.0-100.4) with a peak temperature at 100.7 today. She has 
also been having RUQ discomfort, nausea requiring her to take 
her prn ondansetron. She also reports some mild arthralgias and 
fatigue that are typical for her when she has an episode of 
cholangitis.  
In clinic , initial vitals were: 98.5 | 114/53 | 84 | 16 | 99%RA 
 
Labs were notable for:  
*CBC: 5.2 > 10.5/34.0 < 266  
*Na 140 | K 4.3 | Cl 101 | HCO3 29 | BUN 13 | Cr 0.7  
*AST 51 | ALT 46 | AP 292 | TB 1.1 | INR 1.2  
*UA negative  
*1xBCx drawn  
Patient was directly admitted to ___ 10.  
Currently, she complains of mild nausea and abdominal 
discomfort. Does not feel feverish anymore. Denies recent gluten 
exposure although household not gluten-free, uses same pots and 
pans.  
 
Past Medical History:
PAST MEDICAL HISTORY:
- Primary sclerosing cholangitis (PSC)
- History of recurrent cholangitis requiring hospitalization and 

IV antibiotics
- ___ Laparoscopic cholecystectomy with liver biopsy 
showing bile ductular proliferation and very focal early, 
incomplete 
nodule formation (stage ___ fibrosis)
- Celiac sprue (diagnosed by biopsy, slightly elevated tTG) 
- Hypertension
- GERD  
- Hypothyroidim  
- OSA previously on CPAP - negative on repeat testing  
- (?) IBD (Crohn disease diagnosed at ___ at the age of ___, but 
questionable diagnosis as no symptoms for over ___
 
Social History:
___
Family History:
Daughter has ___ disease. The patient denies a history of 
premature cardiac disease such as MI, arrhythmia or sudden 
cardiac death. No history of liver disease. Sister with 
endometrial cancer and thyroid condition. Other sister and a 
brother with thyroid condition. Father with CAD, DM. Mother with 
thyroid disease and peritoneal cancer.
 
Physical Exam:
ADMISSION EXAM: 
===============
VS: 98.7 | 108/60 | 76 | 18 | 98%RA  
General: Well-appearing, alert and oriented, no acute distress  
HEENT: No scleral icterus or conjunctival pallor, MMM  
Neck: No JVD, no LAD  
CV: RRR, no murmurs/rubs/gallops  
Lungs: Clear to auscultation bilaterally  
Abdomen: non-distended, soft, mild tenderness in RUQ, no rebound 
 
GU: no Foley  
Ext: WWP, 1+ bilateral lower extremity edema  
Neuro: AOx3, no asterixis, fluent speech, no focal deficits  
Skin: Tanned skin, no lesions  

DISCHARGE EXAM:
===============
VS: 98.6 tm: 98.8 67 (64-72) 101/51 (95-108/46-58) 18 100RA  
General: Well-appearing, alert and oriented, no acute distress  
HEENT: No scleral icterus or conjunctival pallor, MMM  
Neck: No JVD, no LAD  
CV: RRR, ___ systolic ejection murmur, no rubs/gallops  
Lungs: Clear to auscultation bilaterally  
Abdomen: non-distended, soft, mild tenderness in RUQ, no rebound 
 
GU: no Foley  
Ext: WWP, 1+ bilateral lower extremity edema  
Neuro: AOx3 fluent speech, no focal deficits  
Skin: Tanned skin, no lesions 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:15AM BLOOD WBC-5.2 RBC-3.99 Hgb-10.5* Hct-34.0 
MCV-85 MCH-26.3 MCHC-30.9* RDW-22.2* RDWSD-68.0* Plt ___
___ 11:15AM BLOOD Neuts-67.0 Lymphs-12.8* Monos-15.3* 
Eos-3.9 Baso-0.8 Im ___ AbsNeut-3.45 AbsLymp-0.66* 
AbsMono-0.79 AbsEos-0.20 AbsBaso-0.04
___ 11:15AM BLOOD ___
___ 11:15AM BLOOD UreaN-13 Creat-0.7 Na-140 K-4.3 Cl-101 
HCO3-29 AnGap-14
___ 11:15AM BLOOD ALT-46* AST-51* AlkPhos-292* TotBili-1.1
___ 11:15AM BLOOD Albumin-4.2
___ 11:15AM BLOOD AFP-2.0

MICROBIOLOGY: 
==============
URINE CULTURE (Final ___:    NO GROWTH. 

Blood culture x3: PENDING, NGTD

DISCHARGE LABS:
===============

___ 06:24AM BLOOD WBC-3.4* RBC-3.57* Hgb-9.5* Hct-31.2* 
MCV-87 MCH-26.6 MCHC-30.4* RDW-22.3* RDWSD-71.2* Plt ___
___ 06:24AM BLOOD ___ PTT-39.9* ___
___ 06:24AM BLOOD Glucose-119* UreaN-9 Creat-0.5 Na-141 
K-4.2 Cl-107 HCO3-26 AnGap-12
___ 06:24AM BLOOD ALT-31 AST-30 AlkPhos-257* TotBili-0.6
___ 06:24AM BLOOD Calcium-8.9 Phos-3.9 Mg-2.0
 
Brief Hospital Course:
Mrs. ___ is a ___ year-old woman with a history of cirrhosis 
due to PSC complicated by ascites, encephalopathy and varices 
being admitted directly from clinic due to low grade fevers and 
abdominal pain in the setting of history of recurrent ascending 
cholangitis.  

#FEVERS/RUQ tenderness: Low grade fever at home with RUQ 
discomfort and associated nausea. On presentation she was 
afebrile and hemodynamically stable. She was found to have no 
leukocytosis and her LFTS were at baseline, AST: 51, ALT: 46, 
AP: 292, Tb: 1.1.  Lipase was WNL. MRCP was not done given her 
recent unchanged MRCP in ___.  Given her history of recurrent 
ascending cholangitis with resistant organisms, treatment for 
presumed cholangitis was initiated.  Blood cultures were sent, 
with no growth to date. Hepatology was consulted and she was 
initially started on meropenem per their recommendations. She 
was then switched to cefepime/flagyl which she tolerated well. 
Her pain and nausea improved and she continued to be afebrile 
and hemodynamically stable.  A picc line was placed and she 
ultimately was switched to ertapenem on discharge for a total 14 
day course. 

#PSC: There was low concern for new stenotic lesion given recent 
stable MRCP in ___. She was continued on her home ursodiol, 
cholestyramine and hydroxyzine.   

# CIRRHOSIS: Due to PSC. Childs class B. MELD 9. She was 
continued on rifaximin. Her home diuretics were held in the 
setting of infection. They were not resumed on discharge given 
soft blood pressures in the ___ range.
* Transplant status: unclear  
* Hepatic encephalopathy: Cont rifaximin, only takes lactulose 
prn  
* Fluid status: holding diuretics  
* h/o SBP: no hx, protein 0.9
* Variceal status: 2x grade II varices s/p banding  

TRANSITIONAL ISSUES:
=====================
- Lasix and spironolactone were held in the setting of 
infection, blood pressures lower than baseline thoughout 
admission without evidence of volume overload, please 
re-evaluate at follow-up appointment 
- f/u blood cx
- receiving ertapenem 1G daily via ___ line with ___ services, 
will need PICC removed after last day of antibiotics on ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO BID:PRN nausea 
2. Cholestyramine 4 gm PO DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. Furosemide 40 mg PO BID 
5. HydrOXYzine 50 mg PO QHS:PRN itching 
6. Lactulose 15 mL PO BID:PRN confusion 
7. Levothyroxine Sodium 75 mcg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Rifaximin 550 mg PO BID 
10. Spironolactone 100 mg PO BID 
11. Temazepam 15 mg PO QHS:PRN insomnia 
12. Ursodiol 300 mg PO TID 
13. Ferrous Sulfate 325 mg PO DAILY 
14. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Ertapenem Sodium 1 g IV ONCE cholangitis Duration: 1 Dose 
Continue until last dose on ___.  
RX *ertapenem [Invanz] 1 gram 1 gram IV daily Disp #*12 Vial 
Refills:*0
2. Cholestyramine 4 gm PO DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. HydrOXYzine 50 mg PO QHS:PRN itching 
5. Lactulose 15 mL PO BID:PRN confusion 
6. Levothyroxine Sodium 75 mcg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Rifaximin 550 mg PO BID 
10. Temazepam 15 mg PO QHS:PRN insomnia 
11. Ursodiol 300 mg PO TID 
12. Ferrous Sulfate 325 mg PO DAILY 
13. Ondansetron 4 mg PO BID:PRN nausea 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
CHOLANGITIS
PSC

SECONDARY DIAGNOSIS: 
Cirrhosis ___ PSC
recurrent cholangitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You came into the hospital because you were having low grade 
fevers and abdominal pain. You were treated with antibiotics for 
cholangitis and monitored in the hospital. Your pain improved on 
antibiotics. Your spironolactone and lasix were held because of 
your infection. You were given a PICC line and arranged to have 
antibiotics through the PICC line for a total course of 14 days. 
You were instructed to stop taking your lasix and spironolactone 
on discharge because your blood pressures have been lower than 
usual.  The liver clinic will call you with a follow-up 
appointment with Dr. ___. 

It was a pleasure being involved in your care!

Your ___ Team  
 
Followup Instructions:
___